US04879315
Placed in an oven-dried, three-necked flask was 1.615 g (5 mMol) of 1,1-dichloro-2,2-Bis-(p-methoxyphenyl) cyclopropane which was flushed with argon and sealed with a rubber septum. Using oven-dried syringes, 10 ml of chloroform, 0.32 g (4 mMol) of pyridine and 2.9 ml (20 mMol) of iodotrimethylsilane were injected into the flask in the order specified above (the chloroform and pyridine had been dried previously over anhydrous magnesium sulfate). The mixture turned yellow and a white precipitate was noted with the addition of iodotrimethylsilane. The mixture was heated to reflux without stirring for 72 hours. Thin layer chromatography was performed with methylene chloride and a small amount of starting material still was present. Anhydrous methanol, dried with magnesium sulfate, in the amount of 2.5 ml was added and the mixture turned golden brown. It was cooled to room temperature and transferred to a round bottom flask with 10 ml of chloroform. The volatile components were removed on a rotary evaporator to yield a yellow solid which was dissolved in 50 ml of ether. The insoluble pyridium hydrochloride was filtered. The ether was evaporated to afford a yellow solid whose NMR and thin layer chromatography (with methylene chloride-acetone (95:5)) showed starting material along with some polar components. These components were separated by column chromatography on silica gel (125 g) with methylene chloride-acetone (95:5) as eluent. Unreacted starting material was eluted first and 0.4 g was recovered. Compound 1,1-dichloro-2-(p-methoxyphenyl)-2-(p-hydroxyphenyl) cyclopropane was eluted next and recrystallized in hexane with trace of ethanol to give colorless fine needles. The column was then washed with acetone, and compound 1,1-dichloro-2,2-Bis-(p-hydroxyphenyl) cyclopropane as a red brown solid was obtained upon evaporation of the solvent. This solid was recrystallized in chloroform to give a light pink solid.

reactant | 1,1-dichloro-2,2-Bis-(p-methoxyphenyl) cyclopropane | 5 mMol, 1.615 g | ClC1(C(C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)Cl | C17H16Cl2O2
reactant | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
reactant | pyridine | 4 mMol, 0.32 g | N1=CC=CC=C1 | C5H5N
reactant | iodotrimethylsilane | 20 mMol, 2.9 ml | I[Si](C)(C)C | C3H9ISi
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | methylene chloride acetone | C(Cl)Cl.CC(=O)C
product | 1,1-dichloro-2,2-Bis-(p-hydroxyphenyl) cyclopropane | ClC1(C(C1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)Cl | C15H12Cl2O2
